US07592492B2
Step 1: 4-Ethyl-8a-methyl-3,4,4a,5,8,8a-hexahydro-1(2H)-naphthalenone
Prepared according to the general procedure # I, with the following quantities: 4-Ethyl-2-methyl-2-cyclohexen-1-one (27.6 g, 0.20 mol), Butadiene (21.6 g, 0.040 mol), Ethyl aluminium dichloride (1 molar solution in hexane, 100 ml, 0.10 mol), Dichloromethane (300 ml)

reactant | 4-Ethyl-2-methyl-2-cyclohexen-1-one | 0.20 mol, 27.6 g | C(C)C1C=C(C(CC1)=O)C | C9H14O
reactant | Butadiene | 0.040 mol, 21.6 g | C=CC=C | C4H6
reactant | Ethyl aluminium dichloride | 0.10 mol, 1 molar, 100 ml | [Cl-].[Cl-].C(C)[Al+2]
solvent | Dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-Ethyl-8a-methyl-3,4,4a,5,8,8a-hexahydro-1(2H)-naphthalenone | C(C)C1CCC(C2(CC=CCC12)C)=O | C13H20O
